US08293909B2
Step 2: Preparation of methyl 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate.
Cesium carbonate (379 mg, 1.164 mmol) was added to a stirring solution of 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine (200 mg, 0.685 mmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (269 mg, 1.027 mmol), Pd(Ph3P)4 (158 mg, 0.137 mmol) in 1,4-dioxane (5.7 mL) and Water (1.1 mL). It was heated to 90° C. overnight. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and diluted with MeOH/DCM and treated with TMS-diazomethane (685 μL, 1.37 mmol, 2M in ether). The mixture was allowed to stir for 1 hour. The reaction was concentrated and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product methyl 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate (247 mg, 0.685 mmol, quant) by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.28 (1H, d, J=2.26 Hz), 8.16 (1H, d, J=2.01 Hz), 8.01-8.10 (2H, m), 7.93 (1H, dd, J=7.91, 1.88 Hz), 7.85 (1H, d, J=1.76 Hz), 7.49-7.57 (2H, m), 7.36-7.44 (2H, m), 3.86 (3H, s), 2.34 (3H, s). LC-MS retention time: 2.55 min; m/z (MH+): 362. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Cesium carbonate | 1.164 mmol, 379 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine | 0.685 mmol, 200 mg | BrC=1C=C2C(=NC1)OC(=C2)C2=CC=C(C=C2)F | C13H7BrFNO
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 1.027 mmol, 269 mg | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | TMS-diazomethane | 1.37 mmol, 2M, 685 μL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | 1,4-dioxane | 5.7 mL | O1CCOCC1 | C4H8O2
solvent | Water | 1.1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.137 mmol, 158 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate | 0.685 mmol, 247 mg | FC1=CC=C(C=C1)C1=CC=2C(=NC=C(C2)C=2C=C(C(=O)OC)C=CC2C)O1 | C22H16FNO3
